US08466282B2
Methyl 1-(2-phenylethyl)-1H-indole-2-carboxylate (318 mg) was dissolved in methanol (5 ml), 2M aqueous sodium hydroxide solution (1.14 ml) was added, and the mixture was stirred at room temperature for 17 hr. The aqueous layer was adjusted to pH 7 with 1M hydrochloric acid, saturated brine was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give 1-(2-phenylethyl)-1H-indole-2-carboxylic acid (300 mg). The obtained 1-(2-phenylethyl)-1H-indole-2-carboxylic acid (300 mg), 1-tert-butyl 3-methyl(3R,5S)-5-[(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (185 mg) and diisopropylethylamine (431 μl) were dissolved in methylene chloride (5 ml), chloro-N,N,N′,N′-tetramethylformamidinium hexafluorophosphate (168 mg) was added, and the mixture was stirred at room temperature for 15 hr. Aqueous sodium bicarbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give the object product (83 mg).

reactant | Methyl 1-(2-phenylethyl)-1H-indole-2-carboxylate | 318 mg | C1(=CC=CC=C1)CCN1C(=CC2=CC=CC=C12)C(=O)OC | C18H17NO2
reactant | sodium hydroxide | 2M, 1.14 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 1-(2-phenylethyl)-1H-indole-2-carboxylic acid | 300 mg | C1(=CC=CC=C1)CCN1C(=CC2=CC=CC=C12)C(=O)O | C17H15NO2
